US07244756B2
5-Chloro-1-(5-chloro-2-methoxy-phenyl)-1,3-dihydro-benzimidazol-2-one (Intermediate compound)
4-Chloro-N1-(5-chloro-2-methoxy-phenyl)-benzene-1,2-diamine hydrochloride (6.3 g, 20 mmol) in tetrahydrofurane (70 ml) was added carbonyldiimidazole (9 g 55 mmol). The reaction mixture was stirred at 60° C. overnight, poured into water (app. 200 ml) and extracted with ethylacetate, and the organic phase was washed with brine and evaporated to an oil. The title compound was crystallized from toluene.

reactant | 4-Chloro-N1-(5-chloro-2-methoxy-phenyl)-benzene-1,2-diamine hydrochloride | 20 mmol, 6.3 g | Cl.ClC=1C=C(C(=CC1)NC1=C(C=CC(=C1)Cl)OC)N
reactant | carbonyldiimidazole | 55 mmol, 9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofurane | 70 ml | O1CCCC1 | C4H8O
product | 5-Chloro-1-(5-chloro-2-methoxy-phenyl)-1,3-dihydro-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2=C(C=CC(=C2)Cl)OC)C=C1 | C14H10Cl2N2O2
